US04395406
4-Ethoxycarbonylmethylthio-5-fluoropyrimid-2-one
A solution of the sodium salt of 5-fluoro-4-thiouracil (0.0195 mol) and ethyl chloroacetate (0.0195 mol) in ethanol (50 ml) was heated under reflux for 2 hr. The solvent was removed at reduced pressure triturated with cold water and the residue recrystallised from water; yield 29%; m.p. 156° C. (Found: C, 41.38; H, 4.12. Calc for C8H9FN2O3S: C, 41.38; H, 3.90).

reactant | sodium | [Na] | Na
reactant | 5-fluoro-4-thiouracil | 0.0195 mol | FC=1C(NC(NC1)=O)=S | C4H3FN2OS
reactant | ethyl chloroacetate | 0.0195 mol | ClCC(=O)OCC | C4H7ClO2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-Ethoxycarbonylmethylthio-5-fluoropyrimid-2-one | yield 29% | C(C)OC(=O)CSC1=NC(NC=C1F)=O | C8H9FN2O3S
